US06140332
Step 12.2: 6-(4-Methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol
Under a protective gas, 611 mg (2.3 mmol) of 2-amino-3-ethoxycarbonyl-5-(4-methoxy-phenyl)-1H-pyrrole in 5 ml of formamide, 2.5 ml of DMF and 1.25 ml of formic acid are heated at 150° C. overnight. Working-up analogously to Step 8.2 yields the title compound; m.p.>300° C.; FAB-MS: (M+H)+ =242.

reactant | 2-amino-3-ethoxycarbonyl-5-(4-methoxy-phenyl)-1H-pyrrole | 2.3 mmol, 611 mg | NC=1NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OC | C14H16N2O3
reactant | formamide | 5 ml | C(=O)N | CH3NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | formic acid | 1.25 ml | C(=O)O | CH2O2
product | 6-(4-Methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | COC1=CC=C(C=C1)C1=CC2=C(N=CN=C2O)N1 | C13H11N3O2
